US06992083B2
4-Fluoro-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-benzamide
From 4-fluorobenzoic acid, HATU and N-diethylisopropylamine in THF, then treatment with 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl-amine in dioxane and DMF. ES-MS m/e (%): 371 (M+H+, 100).

reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl-amine | COC1=CC=C(C2=C1N=C(O2)N)C2CCOCC2 | C13H16N2O3
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Fluoro-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-benzamide | FC1=CC=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=C1 | C20H19FN2O4
